US07470705B2
Step 3. Preparation of (+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
Prepare the title compound by essentially following the procedure described in Example 49, Step 2, by replacing (+/−)-N-(1-cyclopently-6-methoxy-2-methyl-1,2,3,4-tetrahydro-[1,5]napthyridin-4-yl)-acetamide with cis-4-acetylamino-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (0.065 g, 0.018 mmol), and using 3,5-bis trifluoromethyl benzylbromide and lithium hexamethyldisilazide. Purify using silica gel column chromatography (gradient eluent, neat ethyl acetate) to afford the title compound (0.031 g, 30%). MS (ES+): 586 (M+H).

reactant | cis-4-acetylamino-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.018 mmol, 0.065 g | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)NC(C)=O)C | C16H20F3N3O3
reactant | 3,5-bis trifluoromethyl benzylbromide | FC(C=1C=C(CBr)C=C(C1)C(F)(F)F)(F)F | C9H5BrF6
reactant | lithium hexamethyldisilazide | C[Si]([N-][Si](C)(C)C)(C)C.[Li+]
product | (+/−)-cis-4-[Acetyl-(3,5-bis-trifluoromethyl-benzyl)-amino]-2-methyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.031 g, 30% | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C(C)=O)C | C25H24F9N3O3
